US05292739
A mixture of 4 g (17 mmol) of 2-[4(4-aminobutyl)-1-piperazinyl]pyrimidine and 3.3 g of 2,5-dimethoxytetrahydrofuran in 10 ml of acetic acid is refluxed for 1 hour. The reaction mixture is poured into cold water, neutralized with 10% sodium hydroxide solution and extracted with chloroform, the extract is dried and evaporated and 2.2 g of 1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]-butyl}pyrrole are obtained.

reactant | 2-[4(4-aminobutyl)-1-piperazinyl]pyrimidine | 17 mmol, 4 g | NCCCCN1CCN(CC1)C1=NC=CC=N1 | C12H21N5
reactant | 2,5-dimethoxytetrahydrofuran | 3.3 g | COC1OC(CC1)OC | C6H12O3
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]-butyl}pyrrole | 2.2 g | N1=C(N=CC=C1)N1CCN(CC1)CCCCN1C=CC=C1 | C16H23N5
